US04596870
1-(4-Hydroxymethylphenylthiomethyl)-5-chloropyrimidin-2-one
4-(Chloromethylthio) benzyl alcohol (see Preparation 17) (5 mmol) in CH2Cl2 (2 ml) was added dropwise with stirring to a solution prepared from 5-chloropyrimidin-2-one hydrochloride (4 mmol) and triethylamine (8 mmol) in CH2Cl2 (20 ml). The resultant mixture was heated under reflux for 24 hours. The solvent was then distilled off, the residue triturated with water, dried (MgSO4), triturated with ether and the residual material recrystallized from ethanol/Pet. ether. Yield 0.17 g (15%). 1H NMR (DMSO-d6, δ) 4.50 (CH2O), 5.22 (CH2S), 7.22 (Ph), 8.03 or 8.50 (H-4, H-6, J3 Hz).

reactant | 4-(Chloromethylthio) benzyl alcohol | 5 mmol | ClCSC1=CC=C(CO)C=C1 | C8H9ClOS
reactant | 5-chloropyrimidin-2-one hydrochloride | 4 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | 8 mmol | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Hydroxymethylphenylthiomethyl)-5-chloropyrimidin-2-one | OCC1=CC=C(C=C1)SCN1C(N=CC(=C1)Cl)=O | C12H11ClN2O2S
